US04137406
N-[7-{α-methylthio(2-thienyl)acetamido}-3-cephem-3-ylmethyl]pyridinium-4-carboxylate
7-[α-Methylthio(2-thienyl)acetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid (1.0 g) was suspended in 10 ml of water, and 1 ml of pyridine was added. The mixture was stirred until the acid dissolved. The resulting solution (pH 5.9) was maintained at 35° C. for 3 days. After filtration, it was extracted four times with 10 ml of chloroform. The extract was extracted with a small amount of water, and the aqueous solution was allowed to flow through a column of an acetate-form Dowex 1 × 8 (100 to 200 mesh, 20 g). The column was washed with water, and the eluate obtained was lyophilized. The dried product obtained was treated with a small amount of methanol, filtered off and dried to afford the above final product.

reactant | 7-[α-Methylthio(2-thienyl)acetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid | 1.0 g | CSC(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)C=1SC=CC1 | C17H18N2O6S3
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | methanol | CO | CH4O
reactant | water | 10 ml | O | H2O
product | N-[7-{α-methylthio(2-thienyl)acetamido}-3-cephem-3-ylmethyl]pyridinium-4-carboxylate | CSC(C(=O)NC1[C@@H]2N(C=C(CS2)C[N+]2=CC=C(C=C2)C(=O)[O-])C1=O)C=1SC=CC1 | C20H19N3O4S3
